US08580949B2
Enzymatic Phosphorylation of Several Compounds According to Formula I with Nicotinamide-Ribosylkinase
Creatine phosphate (14.5 mg) and creatine kinase (0.1 mg) were dissolved in a mixture of TRIS buffer (pH 7.5, 15 mM MgCl2, 960 μl) and ATP (100 mM/l in H2O, 40 μl). A solution of the riboside (compound 14, or analogue thereof, as given above) (100 mg/ml in H2O, 100 μl) was added, followed by the addition of ribosyl kinase (0.7 U/ml, 230 μl). The reaction mixture was incubated for 16 hrs. at 37° C. Next, the reaction mixture was warmed up to 80° C., filtered and analyzed by high performance liquid chromatography (“HPLC”).

reactant | Creatine phosphate | 14.5 mg | P(=O)(O)(O)O.O=C(O)CN(C)C(N)=N
reactant | creatine | O=C(O)CN(C)C(N)=N | C4H9N3O2
reactant | MgCl2 | 15 mM, pH 7.5 | [Mg+2].[Cl-].[Cl-]
reactant | ATP | 40 μl | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
solvent | H2O | O | H2O
product | Nicotinamide | C(C1=CN=CC=C1)(=O)N | C6H6N2O
